US07262210B2
d. 2-(6-tert-Butoxy-3-cyano-5-fluoro-pyridin-2-yl)-malonic acid tert-butyl ester methyl ester
A thick mixture of 6-tert-butoxy-2,5-difluoro-nicotinonitrile (18.22 g, 85.9 mmol), as prepared in Example 1b, malonic acid tert-butyl ester methyl ester sodium salt (34.49 g, 176 mmol), as prepared in the previous step, and dioxane (110 mL) was stirred under argon at 95° C. (oil bath) for 14 h. The resulting homogeneous dark amber solution was allowed to cool to rt, diluted with ether (150 mL), and washed with a solution of 1.0 M NaH2PO4 (200 mL) containing 2.0 M citric acid (40 mL). The aqueous layer was back-extracted with ether (1×100 mL), the organic layers were combined, washed with 4 M NaCl (1×100 mL), dried (Na2SO4), and concentrated under reduced pressure. Malonic acid tert-butyl ester methyl ester was largely removed from the residue by high vacuum at 95° C. for 1 h to afford the title compound as a clear, dark brown viscous oil (32.37 g, approx. 100% crude yield). 1H-NMR (300 MHz, CDCl3) δ 7.48 (d, 1H), 5.06 (s, 1H), 3.80 (s, 3H), 1.62 (s, 9H), 1.47 (s, 9H).

reactant | 6-tert-butoxy-2,5-difluoro-nicotinonitrile | 85.9 mmol, 18.22 g | C(C)(C)(C)OC1=NC(=C(C#N)C=C1F)F | C10H10F2N2O
reactant | malonic acid tert-butyl ester methyl ester sodium salt | 176 mmol, 34.49 g | [Na].COC(CC(=O)OC(C)(C)C)=O
reactant | dioxane | 110 mL | O1CCOCC1 | C4H8O2
solvent | ether | 150 mL | CCOCC | C4H10O
product | 2-(6-tert-Butoxy-3-cyano-5-fluoro-pyridin-2-yl)-malonic acid tert-butyl ester methyl ester | COC(C(C(=O)OC(C)(C)C)C1=NC(=C(C=C1C#N)F)OC(C)(C)C)=O | C18H23FN2O5
